US09212186B2
Step 2—((2-methyl-2-(prop-2-ynyloxy)propoxy)methyl)benzene
To a mixture of NaH (5.0 g) in THF (50 mL) at 0° C. was added 1-(benzyloxy)-2-methylpropan-2-ol (9.36 g, 51.9 mmol) dropwise. After being stirred at room temperature for 0.5 h, 3-bromoprop-1-yne (12.4 g, 104 mmol) was added slowly at 0° C. The mixture was then stirred at reflux overnight. The reaction was quenched by addition of sat. NH4Cl. The resulting mixture was extracted with ethyl acetate (30 mL×3). The organic layer was combined, dried over with Na2SO4, and concentrated. The residue was purified by silica gel column chromatography eluting with petroleum ether/ethyl acetate (20/1) to afford the title compound (9.72 g, 86%) as pale yellow oil. 1H NMR (500 MHz, CDCl3) δ 7.34-7.35 (m, 5H), 4.56 (s, 2H), 4.18 (d, J=2.0 Hz, 2H), 3.38 (s, 2H), 2.34 (t, J=2.0 Hz, 1H), 1.25 (s, 6H).

reactant | NaH | 5.0 g | [H-].[Na+]
reactant | 1-(benzyloxy)-2-methylpropan-2-ol | 51.9 mmol, 9.36 g | C(C1=CC=CC=C1)OCC(C)(O)C | C11H16O2
reactant | 3-bromoprop-1-yne | 104 mmol, 12.4 g | BrCC#C | C3H3Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2—((2-methyl-2-(prop-2-ynyloxy)propoxy)methyl)benzene | 9.72 g, 86% | CC(COCC1=CC=CC=C1)(C)OCC#C | C14H18O2
